Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
acute on subacute decline in mental status
 
Major Surgical or Invasive Procedure:
none
 
History of Present Illness:
Ms. ___ is a ___ RH F with PMHx of HTN, HLD, DM, breast
cancer s/p L mastectomy who presents to ___ ED with acute on
subacute decline in mental status. Ms. ___ is accompanied by
her husband and daughter who provide the below history.
Mr. ___ was in her usual state of health until ___ of
this year. In ___ there were several significant social
stressors that appeared to be causing her a great deal of
anxiety. She also began sleeping much less, around ___ hours per
night. Around the same time, she began experiencing episodes of
confusion and difficulty making simple decision. The family
stresses that her cognition was very fluctuant - "she has good
days and bad days, sometime good and bad in the same day." Early
in her course, Ms. ___ seemed to be aware of her deficits -
she complained of confusion, anxiety, and had a premonition of
when she was going to worsen ("A fog is coming in").
For her complaints, she was evaluated by Dr. ___ in behavior
health and was given citalopram and clonazepam for anxiety.
Despite this, she continued to worsen - becoming more confused
and agitated, though with apparently preserved awareness of her
deficits. Her family states that during her periods of lucidity,
Ms. ___ would say "I need help."
On ___, she called her outpatient psych counselor to
request admission to inpatient psychiatry "because she was 
afraid
and could not function at home." She was admitted to ___ on ___ to psychiatry. During her admission, she 
was
not seen by neurology. She did have an MRI without contrast 
which
showed atrophy and white matter disease "greater than expected
for age." She was weaned off of her clonazepam during that
admission. 
Ms. ___ was discharged home on ___, and her family
reports that initially she seemed much better. She called her
son, and had full coherent conversations with her family 
members.
On ___, however, she had an acute worsening with new urinary
incontinence, gait unsteadiness, jerking movements, and
difficulty speaking. Her affect was also odd, laughing at
everything her husband said even when discussing serious
subjects. Her speech has continued to worsen to the point that
today she is barely able to get any words out at all. She is 
also
increasingly confused and agitated, pulling at her lines and
interfering with cares.
Ms. ___ was seen at ___ neurology by Dr. ___
recommended that she go to ___ ED for neurological evaluation
and likely admission.
On ROS, there have been no clear systemic signs including 
fevers,
URI, abdominal pain, N/V/D. The family denies any evidence of
visual or auditory hallucinations.

 
Past Medical History:
- hypothyroidism
- HLD
- HTN
- anxiety
- DM2
- breast cancer s/p L mastectomy in ___
- pathology: invasive carcinoma w ductal and lobular features
- GERD
 
Social History:
___
Family History:
Mother - ___ cancer, CAD/PVD, DM
Paternal Aunt - ovarian cancer
 
Physical Exam:
PHYSICAL EXAMINATION:
VS T98.4 HR58 BP152/78 RR16 Sat99RA  
GEN - elderly woman, appears agitated and confused, anxious
HEENT - NC/AT, MMM
NECK - does not relax neck, but no clear meningismus
CV - RRR
RESP - normal WOM
ABD - soft, NT, ND
EXTR - atraumatic, WWP

NEUROLOGICAL EXAMINATION
MS - Awake but inattentive. Preoccupied by wrist band, BP cuff,
and IVs. Fixated on a blood draw that was done in the left arm.
Speech is non-fluent, choppy. She is perseverating on the fact
that she had a mastectomy, and keeps trying to tell me this,
difficult to redirect. There are a few preserved phrases: "Is
there a line outside?" and "What procedure did I have done
today." Unable to state name, date, or place when questioned
directly; but does later say, "in the hospital." Does not know
which hospital initially, but after being told it is ___, she
is able to recall this fact 1x ~2 minutes later. Cannot (or does
not) tell me the name of her husband. Obeys one simple command
(show me your teeth) once, but does not obey any other commands.
Does not repeat or read. Needs to be held down for blood draws
and IV placement.
CN - +BTT bilaterally, EOMI grossly, PERRL 7->4, face grossly
symmetric at rest and with activation.
MOTOR - Does not relax, ?paratonia throughout. Several scattered
myoclonic jerks involving arms and legs bilaterally during my
examination. Tremulous, ?intention tremor. Moves all extremities
anti-gravity and purposefully, no evidence of lateralized
weakness. No wasting or fasciculations. 
SENSORY - Brisk withdraw to nox x4.
REFLEXES - Difficulty with relaxing. ~2+ in BUE and BLEs. Toes
are mute bilaterally. ___ beats of clonus at L ankle. +Grasp
bilaterally. +Glabellar.
COORD - Tremulous but no clear appendicular ataxia.
GAIT - Deferred for patient safety.

 
Pertinent Results:
___ - 
U/A: Tr ___, 10 ketones, 1 WBC, No bacteria
Utox: negative
Stox: negative

Lactate:2.2

125  87  24  210   AGap=18 
4.0  24  0.8  
 
Ca: 10.2 Mg: 1.8 P: 3.8

TSH:11
 
13.6 > 13.3/38.4 < 345 
        
N:88.3 L:6.6 M:4.6 E:0.0 Bas:0.1 

NCHCT - ___
No acute intracranial process. No evidence of hydrocephalus. 

___ EEG
This is an abnormal waking EEG because of slow and disorganized 
background. Except for muscle and movement artifact, no other 
EEG changes 
were seen during periods of apparent myoclonus. 

___ CXR
No acute cardiopulmonary process. 

___: MR head w/without contrast 
1. No acute infact or abnormal enhancement or mass effect 
2. Nonspecific periventricular and subcortical white matter 
FLAIR 
hyperintensity which likely represents sequela of chronic 
microangiopathy 
given patient's age. 
3. A 6 x 5 x 3 mm inferior and medially projecting 
aneurysm/outpouching at the 
left cavernous segment internal carotid artery, better seen on 
source MRA 
images.  INR/Neurosurgery consult and correlation with CTA Head 
to be 
considered 
4. Patent intracranial vasculature without occlusion or 
significant stenosis. 

LP ___:
WBC: 1, RBC: 0,Poly:4, Lymphs: 76, Macro: 20, Mono:0, Total 
prot: 38, glucose:104 

Trops: 0.08 -->.12

CXR: ___
In comparison with the study of ___, the cardiac 
silhouette remains at the upper limits of normal in size or 
slightly enlarged. There is no definite pulmonary vascular 
congestion or acute focal pneumonia.  Atelectatic changes with 
possible small effusion appear more prominent at the left base 
on the current study. 

CTA ___
Extensive pulmonary embolus involving the right main pulmonary 
artery and 
bilateral lobar pulmonary arteries extending into the 
subsegmental pulmonary arteries in all lobes.  Mild bowing of 
the intraventricular septum raising concern for right heart 
strain.  Small wedge-shaped peripheral ground-glass opacity in 
the right upper lobe may reflect a small pulmonary infarct. 

RECOMMENDATION(S):  If clinical concern for right heart strain, 
this could be better evaluated with echocardiogram. 

CT ___ ___  
1. Essentially unremarkable CT of the abdomen and pelvis. 
2. Few sigmoid diverticula without evidence of diverticulitis. 

DISCHARGE LABS:

___ 04:05AM BLOOD WBC-10.4* RBC-3.47* Hgb-11.2 Hct-33.6* 
MCV-97 MCH-32.3* MCHC-33.3 RDW-13.9 RDWSD-47.3* Plt ___
___ 04:05AM BLOOD Glucose-161* UreaN-17 Creat-1.0 Na-138 
K-4.0 Cl-100 HCO3-30 AnGap-12
___ 04:05AM BLOOD Calcium-10.1 Phos-6.2*# Mg-1.___ PMH HTN, DMII, dyslipidemia who initially p/w declining 
mental status with negative neuro work up to date, now 
improving, found to have bilateral submassive PEs on heparin gtt 
being transferred to the medicine service for further 
management.
 
#BILATERAL PEs: Patient became hypoxic and short of breath on 
___ with CTA revealing bilateral submassive PEs. Evidence of 
RH strain on ECHO.  She remained hemodynamically stable and only 
on minimal O2 support.  She was placed on a heparin gtt and 
transitioned to oral xarelto.  She should complete a 21 day 
course of 15mg BID until ___ and start 20mg once a day from 
___. LENIs

#Acute on subacute encephalopathy: Etiology remains unclear 
despite extensive workup.  Some of the work up included CT head, 
LP and EEG which were all negative. Patient was started on 
citalopram as an outpatient and on admission thought to have 
some rigidity.  Psych thought she may have catatonia vs a degree 
of sermonic syndrome.  Patient's mental status improved after 
administration of benzodiazepines.  Citalopram was discontinued.

#Breast ca: Patient was on letrozole, but after discussion with 
oncology, they recommended keeping patient off letrozole as she 
has no active malignancy at the moment and she has completed 
___ years. Can discuss resumption as outpatient if needed.  
Work up to see if patient had any recurrence/new malignancy was 
initiated this admission.  CT ___ this admission was 
negative for any evidence of malignancy.  Patient will need 
thyroid US as an outpatient

#Incidental small aneurysm L-cavernous segment ICA: 
-will have neurosurgery follow up as outpatient

#Hypertension: 
-blood pressure regimen was chlorthalidone 25mg daily, 
amlodipine 5mg, metoprolol succinate XL 50mg daily,losartan 
100mg BID, and spironolactone 50mg daily 

#Hyperglycemia: ISS while in house and then restarted on 
metformin
  
TRANSITIONAL ISSUES:
-letrozole was discontinued after discussion with oncology with 
regards to its prothrombotic tendencies. Patient has completed ___nd is not thought to have active 
malignancy. Can restart as outpatient if needed.
-will also need outpatient malignancy screen (thyroid US) to see 
if any recurrence/new malignancy
-should have 15mg twice a day until ___ and then switch 
over to 20mg daily dosing from ___. 
-Her new blood pressure regimen was chlorthalidone 25mg daily, 
amlodipine 5mg, metoprolol succinate XL 50mg daily,losartan 
100mg BID, and spironolactone 50mg daily 
-Please ensure cardiology follow up given new submassive PEs and 
being started on anticoagulation
-incidental aneurysm should be followed up in her neurosurgery 
appointment which was made for her before discharge
-will need to have a chemistry panel check to monitor potassium 
while on losartan and spironolactone
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Levothyroxine Sodium 137 mcg PO DAILY hypothyroidism 
2. Omeprazole 20 mg PO DAILY Acid Reflux 
3. MetFORMIN (Glucophage) 500 mg PO BID Diabetes 
4. Losartan Potassium 100 mg PO BID Hypertension and Diabetes 
5. Hydrochlorothiazide 25 mg PO DAILY Hypertension 
6. Atenolol 100 mg PO DAILY Hypertension 
7. Simvastatin 20 mg PO QPM Hyperlipidemia 
8. Citalopram 20 mg PO DAILY anxiety 
9. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID topical 
rash on gluteus maximus 
10. Aspirin 81 mg PO DAILY preventative 
11. Letrozole 2.5 mg PO DAILY breast cancer 

 
Discharge Medications:
1. Xarelto (rivaroxaban) 15 mg (42)- 20 mg (9) oral BID for 21 
days, daily after that Duration: 6 Months 
RX *rivaroxaban [Xarelto] 15 mg (42)- 20 mg (9) 1 tablets(s) by 
mouth twice daily Disp #*1 Dose Pack Refills:*0
2. Levothyroxine Sodium 137 mcg PO DAILY hypothyroidism 
3. Losartan Potassium 100 mg PO BID Hypertension and Diabetes 
4. Omeprazole 20 mg PO DAILY Acid Reflux 
5. Simvastatin 20 mg PO QPM Hyperlipidemia 
6. Metoprolol Succinate XL 50 mg PO QHS 
RX *metoprolol succinate 50 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
7. Aspirin 81 mg PO DAILY preventative 
8. Clobetasol Propionate 0.05% Ointment 1 Appl TP BID topical 
rash on gluteus maximus 
9. MetFORMIN (Glucophage) 500 mg PO BID Diabetes 
10. Amlodipine 5 mg PO HS 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
11. Chlorthalidone 25 mg PO DAILY 
RX *chlorthalidone 25 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0
12. Spironolactone 50 mg PO DAILY 
RX *spironolactone 50 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY: serotonin syndrome and pulmonary embolus
SECONDARY:HTN
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear ___

___ was a pleasure having you here at the ___ 
___.  You were admitted here after you were thought 
to be more confused.  The neurology team evaluated you and you 
had EEG, lumbar puncture studies and CT head studies which were 
all non-revealing for any pathology which may have caused your 
symptoms.  The psychiatry team thought that this may have been a 
result of your new medication called citalopram.  This 
medication was discontinued and you were managed with a group of 
medications called 'benzodiazepines' which helped your symptoms.

On ___, you felt short of breath and a CT of your chest was 
done which revealed clots in both lungs.  You were started on an 
intravenous blood thinner for these called heparin and 
eventually switched over to xarelto.  You should have 15mg twice 
a day until ___ and then switch over to 20mg daily dosing 
from ___. 

Your letrozole for your breast cancer was stopped after 
discussion with your oncologist. CT imaging of your abdomen and 
pelvis did not show any evidence of cancer.

Of note, a small aneurysm was noted on your CT imaging for which 
you should see the neurosurgery team as an outpatient.

Please keep your follow up appointments below.

We wish you the very best.
 
Followup Instructions:
___